US08133998B2
Methyl 5-methyl-4-oxo-3-(2-(2-oxopyrrolidin-1-yl)ethyl)-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate (0.5 g, 1.5 mmol) was dissolved in a mixture of THF-MeOH—H2O (10 mL-3 mL-3 mL) followed by the addition of LiOH—H2O (0.250 g). The mixture was stirred at RT over night. The solvent evaporated and the residue was dissolved in 4 mL of water and then acidified with 2N HCl to pH˜3. The solid was filtered off, dried to gave 0.290 g of 5-methyl-4-oxo-3-(2-(2-oxopyrrolidin-1-yl)ethyl)-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid, in 60% yield.

reactant | Methyl 5-methyl-4-oxo-3-(2-(2-oxopyrrolidin-1-yl)ethyl)-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | 1.5 mmol, 0.5 g | CC1=C(SC=2N=CN(C(C21)=O)CCN2C(CCC2)=O)C(=O)OC | C15H17N3O4S
reactant | LiOH—H2O | 0.250 g | O[Li].O
solvent | THF MeOH—H2O | 10 mL-3 mL | C1CCOC1.CO.O
product | 5-methyl-4-oxo-3-(2-(2-oxopyrrolidin-1-yl)ethyl)-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid | 0.290 g, 60% yield | CC1=C(SC=2N=CN(C(C21)=O)CCN2C(CCC2)=O)C(=O)O | C14H15N3O4S
